** Testbench
** 
**-----------------------------------------------------------------------------------
** This file is the testbench of array.sp and translate the output into digital form.
**
** # Instruction
** Do not change if not necessary.
**-----------------------------------------------------------------------------------

** Options **
.option post ingold=1 symb=1 ACCT NOMOD
**.option
**+    ARTIST=2
**+    INGOLD=2
**+    PARHIER=LOCAL
**+    PSF=2

** Includes **
.include "../src/sp/array.sp"

** Sub-circuits **
X1 bl_0 bl_1 bl_2 bl_3 bl_4 bl_5 bl_6 bl_7 en 0 out0 out1 out2 out3 out4 out5 out6 out7 out_b0 out_b1 out_b2 out_b3 out_b4 out_b5 out_b6 out_b7 pec rw sl0 sl1 sl2 sl3 sl4 sl5 sl6 sl7 vdd wl0 wl1 wl2 wl3 wl4 wl5 wl6 wl7 wl8 array

** Signals **
v0 vdd 0 DC=1.2V
**v1 clk 0 pulse 0 1.2 2.4e-9 0.1e-9 0.1e-9 2.4e-9 5e-9

.pat en = b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 
.pat pec = b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 b010101010101010101 
.pat rw = b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 b111111111 
v2 en 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 en
v3 pec 0 pat 1.2 0 0 0.1e-9 0.1e-9 2.5e-9 pec
v4 rw 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 rw

.pat pbl_0 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat pbl_1 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat pbl_2 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat pbl_3 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat pbl_4 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat pbl_5 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat pbl_6 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat pbl_7 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
v5 bl_0 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 pbl_0
v6 bl_1 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 pbl_1
v7 bl_2 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 pbl_2
v8 bl_3 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 pbl_3
v9 bl_4 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 pbl_4
v10 bl_5 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 pbl_5
v11 bl_6 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 pbl_6
v12 bl_7 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 pbl_7

.pat sl0 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat sl1 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat sl2 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat sl3 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat sl4 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat sl5 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat sl6 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat sl7 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 
v13 sl0 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 sl0
v14 sl1 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 sl1
v15 sl2 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 sl2
v16 sl3 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 sl3
v17 sl4 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 sl4
v18 sl5 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 sl5
v19 sl6 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 sl6
v20 sl7 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 sl7

.pat wl0 = b100000000 b100000000 b000000000 b000000000 b000000000 b000000000 b100000000 b000000000 b000000000 b000000000 b000000000 b000000000 b100000000 b100000000 b000000000 b000000000 b100000000 b000000000 b000000000 b100000000 b100000000 b100000000 b100000000 b000000000 b100000000 b100000000 b000000000 b100000000 b100000000 b000000000 b100000000 b000000000 b000000000 b000000000 b000000000 b000000000 
.pat wl1 = b010000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b010000000 b010000000 b000000000 b000000000 b010000000 b000000000 b010000000 b010000000 b010000000 b010000000 b010000000 b000000000 b010000000 b010000000 b000000000 b010000000 b010000000 b000000000 b010000000 b000000000 b000000000 b000000000 b000000000 b000000000 b010000000 
.pat wl2 = b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b000000000 b001000000 b001000000 b000000000 b000000000 b001000000 b000000000 b001000000 b000000000 b001000000 b001000000 b001000000 b000000000 b001000000 b000000000 b000000000 b001000000 b001000000 b000000000 b001000000 b001000000 b000000000 b000000000 b000000000 b000000000 b001000000 b000000000 
.pat wl3 = b000100000 b000000000 b000000000 b000000000 b000000000 b000000000 b000100000 b000100000 b000000000 b000000000 b000100000 b000000000 b000000000 b000100000 b000100000 b000100000 b000100000 b000000000 b000100000 b000100000 b000000000 b000100000 b000100000 b000000000 b000100000 b000000000 b000000000 b000000000 b000000000 b000000000 b000100000 b000100000 b000000000 b000100000 b000000000 b000000000 
.pat wl4 = b000000000 b000000000 b000000000 b000000000 b000000000 b000010000 b000010000 b000000000 b000000000 b000010000 b000000000 b000010000 b000010000 b000010000 b000010000 b000010000 b000000000 b000010000 b000010000 b000000000 b000010000 b000010000 b000000000 b000010000 b000000000 b000000000 b000000000 b000000000 b000000000 b000010000 b000010000 b000000000 b000010000 b000000000 b000000000 b000010000 
.pat wl5 = b000000000 b000000000 b000000000 b000000000 b000001000 b000001000 b000000000 b000000000 b000001000 b000000000 b000001000 b000000000 b000001000 b000001000 b000001000 b000000000 b000001000 b000000000 b000000000 b000001000 b000001000 b000000000 b000001000 b000001000 b000000000 b000000000 b000000000 b000000000 b000001000 b000000000 b000000000 b000001000 b000000000 b000000000 b000001000 b000000000 
.pat wl6 = b000000100 b000000100 b000000000 b000000000 b000000100 b000000000 b000000000 b000000100 b000000100 b000000100 b000000100 b000000000 b000000100 b000000100 b000000000 b000000100 b000000100 b000000000 b000000100 b000000000 b000000000 b000000000 b000000000 b000000000 b000000100 b000000100 b000000000 b000000100 b000000000 b000000000 b000000000 b000000100 b000000100 b000000100 b000000000 b000000000 
.pat wl7 = b000000010 b000000000 b000000000 b000000010 b000000000 b000000010 b000000010 b000000010 b000000010 b000000010 b000000000 b000000010 b000000010 b000000000 b000000010 b000000010 b000000000 b000000010 b000000000 b000000000 b000000000 b000000000 b000000000 b000000010 b000000010 b000000000 b000000010 b000000000 b000000000 b000000010 b000000010 b000000010 b000000010 b000000000 b000000000 b000000010 
.pat wl8 = b000000000 b000000000 b000000001 b000000000 b000000001 b000000000 b000000001 b000000001 b000000001 b000000000 b000000001 b000000000 b000000000 b000000001 b000000001 b000000000 b000000001 b000000001 b000000000 b000000000 b000000000 b000000000 b000000001 b000000000 b000000000 b000000001 b000000000 b000000000 b000000001 b000000000 b000000001 b000000001 b000000000 b000000000 b000000001 b000000000 
v21 wl0 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl0
v22 wl1 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl1
v23 wl2 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl2
v24 wl3 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl3
v25 wl4 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl4
v26 wl5 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl5
v27 wl6 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl6
v28 wl7 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl7
v29 wl8 0 pat 1.2 0 0 0.1e-9 0.1e-9 5e-9 wl8

** Models **
.model A2D U LEVEL=4 TIMESCALE=1 TIMESTEP=0.1ns
+S0NAME=0 S0VLO=-0.3 S0VHI=0.3
+S1NAME=1 S1VLO=0.7 S1VHI=1.5
+CLOAD=0.1e-15

uc0 out0 0 A2D signame=out0
uc1 out1 0 A2D signame=out1
uc2 out2 0 A2D signame=out2
uc3 out3 0 A2D signame=out3
uc4 out4 0 A2D signame=out4
uc5 out5 0 A2D signame=out5
uc6 out6 0 A2D signame=out6
uc7 out7 0 A2D signame=out7
**uc8 out_b0 0 A2D signame=out_b0
**uc9 out_b1 0 A2D signame=out_b1
**uc10 out_b2 0 A2D signame=out_b2
**uc11 out_b3 0 A2D signame=out_b3
**uc12 out_b4 0 A2D signame=out_b4
**uc13 out_b5 0 A2D signame=out_b5
**uc14 out_b6 0 A2D signame=out_b6
**uc15 out_b7 0 A2D signame=out_b7

** Parameters **
.param period = 1620ns
.param t0= 0.1ns
.param t1= t0+period
.param t2= t1+0.1ns
.param step= 1ps

**.measure tot_power avg power from 100ns t0 t1

.tran step t2
**.print V(out0) V(out1) V(out2) V(out3) V(out4) V(out5) V(out6) V(out7)
.end